US07674795B2
The procedure used in Example 68 is followed. In a 100 ml round-bottomed flask under an argon atmosphere, heat, at 130° C. for 4 hours, a suspension of 1.6 g of (2-aminophenyl)amide of 7-nitro-9-oxo-9H -fluorene-4-carboxylic acid, obtained in the previous stage, in 30 ml of acetic acid. After cooling, the insoluble material that formed is filtered off, and washed successively with water, with a saturated aqueous solution of sodium hydrogen carbonate and then with water. After purification by flash chromatography on silica gel (40-63 μm), eluting with a mixture of dichloromethane and 7N ammoniacal methanol (9/1 by volume), then formation of a paste in diisopropyl ether, in this way we obtain 550 mg of 5-(1H-benzimidazol-2-yl)-2-nitro-9H-fluoren-9-one, in the form of a yellow powder, which is used as it is in the following stage, with the following characteristics:

reactant | (2-aminophenyl)amide | 1.6 g | NC1=C(C=CC=C1)[NH-]
reactant | 7-nitro-9-oxo-9H -fluorene-4-carboxylic acid | [N+](=O)([O-])C1=CC=C2C=3C(=CC=CC3C(C2=C1)=O)C(=O)O | C14H7NO5
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-(1H-benzimidazol-2-yl)-2-nitro-9H-fluoren-9-one | 550 mg | N1C(=NC2=C1C=CC=C2)C2=C1C=3C=CC(=CC3C(C1=CC=C2)=O)[N+](=O)[O-] | C20H11N3O3
